US07109229B2
(c) 6-Bromo-1H-indole-3-acetamide
Powdered K2CO3 (408 mg, 2.95 mmol, 1.60 eq.) was heated to 50° C. in DMSO (3 mL) for 20 min, then cooled to rt. 6-Bromo-1H-indole-3-acetonitrile (434 mg, 1.85 mmol) was dissolved in DMSO (3 mL) and added to the reaction slurry. Water (0.2 mL) and aqueous 30% H2O2 (0.46 mL, 4.0 mmol, 2.2 eq.) were added, and the reaction mixture was stirred for 2–3 hours at rt. The reaction was quenched with 1N HCl and extracted with EtOAc. The organic layer was washed with 1.5 N sodium thiosulfate and dried (MgSO4). The solvent was removed in vacuo, and the residue crystallized from CH2Cl2 to give 273 mg (55%) of the title compound.

reactant | K2CO3 | 2.95 mmol, 408 mg, 1.60 eq. | C(=O)([O-])[O-].[K+].[K+]
reactant | 6-Bromo-1H-indole-3-acetonitrile | 1.85 mmol, 434 mg | BrC1=CC=C2C(=CNC2=C1)CC#N | C10H7BrN2
reactant | Water | 0.2 mL | O | H2O
reactant | H2O2 | 4.0 mmol, 0.46 mL, 2.2 eq. | OO | H2O2
solvent | DMSO | 3 mL | CS(=O)C | C2H6OS
solvent | DMSO | 3 mL | CS(=O)C | C2H6OS
product | 6-Bromo-1H-indole-3-acetamide | 273 mg, 55% | BrC1=CC=C2C(=CNC2=C1)CC(=O)N | C10H9BrN2O
